US04691026
Synthesis of N-(4,4-Diethoxybutyl)maleamic Acid (DBMA)
Maleic anhydride (85 g) in 1300 mL of CH2Cl2 was cooled to 15° C. and treated with 155 g of 4-aminobutyraldehyde diethyl acetal (AmBDA). (Other preparations used the reverse mode of addition with similar results.) Fifteen min after the addition was complete no further AmBDA was detected by glpc. The solvent was removed under reduced pressure (maintained at 0.2 torr for 2 h to assure completion) to give 230 g of slightly orange colored thick oil. On standing for several months at 0° C., this material solidified to an off-white solid.

reactant | Maleic anhydride | 85 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 4-aminobutyraldehyde diethyl acetal | 155 g | C(C)OC(CCCN)OCC | C8H19NO2
solvent | CH2Cl2 | 1300 mL | C(Cl)Cl | CH2Cl2
product | N-(4,4-Diethoxybutyl)maleamic Acid | C(C)OC(CCCNC(\C=C/C(=O)O)=O)OCC | C12H21NO5
